US07947684B2
B. 3-[1-(5-Phenylethynyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzonitrile
A solution of 5-phenylethynyl-pyridine-3-carboxylic acid (0.75 g, 3.3 mmol) in anhydrous dimethylformamide (9 ml) is treated with HATU (1.27 g, 3.3 mmol) and diisopropylethylamine (1.1 ml, 6.1 mmol). The reaction mixture is stirred 15 mins. at ambient temperature before being treated with a solution of 3-(piperidin-4-yl)-benzonitrile (0.6 g, 3 mmol) in dimethylformamide (6 ml). The reaction mixture is stirred at ambient temperature 2 hours, concentrated under vacuum and the residue partitioned between ethyl acetate (200 ml) and saturated aqueous sodium bicarbonate ((45 ml). The organic layer is dried (magnesium sulfate), concentrated under vacuum and the residue chromatographed on silica gel (dichloromethane/methanol 39:1) to give the title compound as a yellow oil (0.53 g). 1H NMR (CDCl3, 500 MHz) δ8.80 (s, 1H), 8.63 (s, 1H), 8.00 (s, 1H), 7.50 (m, 9H), 4.90 (br m, 1H), 3.85 (br m, 1H), 3.28 (m, 1H), 2.90 (m, 2H), 1.91 (m, 1H), 1.75 (m, 3H). EI MS M++H: 392.

reactant | 5-phenylethynyl-pyridine-3-carboxylic acid | 3.3 mmol, 0.75 g | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(=O)O | C14H9NO2
reactant | HATU | 3.3 mmol, 1.27 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | diisopropylethylamine | 6.1 mmol, 1.1 ml | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 3-(piperidin-4-yl)-benzonitrile | 3 mmol, 0.6 g | N1CCC(CC1)C=1C=C(C#N)C=CC1 | C12H14N2
solvent | dimethylformamide | 9 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
product | 3-[1-(5-Phenylethynyl-pyridine-3-carbonyl)-piperidin-4-yl]-benzonitrile | 0.53 g | C1(=CC=CC=C1)C#CC=1C=C(C=NC1)C(=O)N1CCC(CC1)C=1C=C(C#N)C=CC1 | C26H21N3O
